US03954869
4'-Chloro-4-biphenylyl 4-chlorophenyl ketone (16.4 g.) and acetonitrile (2.25 g.) were reacted in benzene in the presence of sodamide (2.5 g.) by the method of Lettre and Wick (Annalen, 1957, 603, 194) to give 3-hydroxy-3-(4'-chloro-4-biphenylyl)-3-p-chlorophenylpropionitrile, m.p. 123°C after recrystallisation from benzene; λ max (ethanol) = 260 nm.

reactant | 4'-Chloro-4-biphenylyl 4-chlorophenyl ketone | 16.4 g | ClC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C19H12Cl2O
reactant | acetonitrile | 2.25 g | C(C)#N | C2H3N
reactant | sodamide | 2.5 g | [NH2-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-hydroxy-3-(4'-chloro-4-biphenylyl)-3-p-chlorophenylpropionitrile | OC(CC#N)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C21H15Cl2NO
